US05175162
A solution of 3.7 g of 4-oxo-4,5,6,7-tetrahydrothieno-[2,3-b]thiepin-5-acetic acid and 2.6 g of 4-chlorophenylhydrazine in 50 ml of ethanol is refluxed under heating for 6.5 hours. Then, the reaction mixture is concentrated under reduced pressure. The resulting residue is dissolved in 40 ml of acetic acid and the solution is refluxed under heating fo 1.5 hours. After cooling, the reaction mixture is concentrated under reduced pressure, the residue is subjected to column chromatography on silica gel and eluted with chloroform. The crystals obtained from the fraction are recrystallized from a mixed solvent of chloroform and ethanol to give 1.7 g of 2-(4-chlorophenyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one as pale brown crystals, melting at 134°-135° C.

reactant | 4-oxo-4,5,6,7-tetrahydrothieno-[2,3-b]thiepin-5-acetic acid | 3.7 g | O=C1C2=C(SCCC1CC(=O)O)SC=C2 | C10H10O3S2
reactant | 4-chlorophenylhydrazine | 2.6 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-chlorophenyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 1.7 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CCSC1=C2C=CS1 | C16H13ClN2OS2
